US07491718B2
6-[(1-naphthylsulfonyl)amino]-1H-indole-7-carboxylic acid
A solution of ethyl 6-amino-1H-indole-7-carboxylate (prepared as described in Showalter, H. D. et al., J. Org. Chem., 1996, 61, 1155-1158, 0.05 g, 0.25 mmol) in CH2Cl2 (5 mL) was treated with 1-naphthalenesulfonyl chloride (0.066 g, 0.29 mmol) and pyridine (0.040 mL, 0.50 mmol), shaken for 16 hours at ambient temperature, filtered, and concentrated. The concentrate was dissolved in 9:1 methanol/water (1 mL), treated with LiOH (25 mg, 0.6 mmol), and heated to 60° C. for 16 hours. The mixture was concentrated and the concentrate was purified by C18 reverse-phase HPLC using acetonitrile/water/0.1% TFA to provide the desired product. MS (DCI) m/e 384 (M+NH4)+; 1H NMR (500 MHz, DMSO-d6) δ 12.43 (br s, 1H), 10.77 (s, 1H), 8.62 (d, 1H), 8.30 (dd, 1H), 8.18 (d, 1H), 8.03 (d, 1H), 7.69 (m, 1H), 7.64-7.60 (m, 3H), 7.20 (d, 1H), 7.17 (t, 1H), 6.35 (dd, 1H).

reactant | ethyl 6-amino-1H-indole-7-carboxylate | 0.25 mmol, 0.05 g | NC1=CC=C2C=CNC2=C1C(=O)OCC | C11H12N2O2
reactant | 1-naphthalenesulfonyl chloride | 0.29 mmol, 0.066 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | pyridine | 0.50 mmol, 0.040 mL | N1=CC=CC=C1 | C5H5N
reactant | LiOH | 0.6 mmol, 25 mg | [Li+].[OH-]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-[(1-naphthylsulfonyl)amino]-1H-indole-7-carboxylic acid | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)NC1=CC=C2C=CNC2=C1C(=O)O | C19H14N2O4S
